US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (1.00 g, 3.10 mmol) and cyclopropanecarbonyl chloride (0.32 g, 3.10 mmol) in THF (35 mL), was added triethylamine (0.88 mL, 6.20 mmol) at room temperature under nitrogen. The mixture was heated to 40° C. for 6 h then cooled to rt. The mixture was filtered and the filtrate diluted with EtOAc (100 mL). The organic layer was washed with dil. aq. HCl (100 mL), water (2×75 mL), dried (MgSO4) and concentrated in vacuo to give cyclopropanecarboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.69 g, 63% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 25/75 CH3CN/0.1% H3PO4, 2.96 min (98.96%); mp: 163-165° C.; 1H NMR (DMSO-d6) δ 0.62-0.78 (m, 4H), 1.63 (m, 1H), 1.95-2.17 (m, 1H), 2.53-2.67 (m, 2H), 2.79-3.00 (m, 1H), 4.46 (d, J=6.0 Hz, 2H), 5.15 (dd, J=5.4, 12.9 Hz, 1H), 7.67-7.79 (m, 2H), 7.89 (d, J=7.6 Hz, 1H), 8.77 (t, J=5.9 Hz, 1H), 11.13 (s, 1H); 13C NMR (DMSO-d6) δ 6.44, 13.57, 21.99, 30.93, 42.05, 48.99, 121.83, 123.54, 129.74, 131.60, 133.35, 147.77, 166.99, 167.13, 169.82, 172.73, 172.94; Anal Calcd for C18H17N3O5+0.2H2O: C, 60.23; H, 4.89; N, 11.71. Found: C, 60.16; H, 4.54; N, 11.70.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.10 mmol, 1.00 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | cyclopropanecarbonyl chloride | 3.10 mmol, 0.32 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triethylamine | 6.20 mmol, 0.88 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | cyclopropanecarboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.69 g, 63% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C1CC1)=O)=O | C18H17N3O5
